Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
scheduled admission for chemotherapy
 
Major Surgical or Invasive Procedure:
lumbar puncture
intraocular injection

 
History of Present Illness:
Mr. ___ is a ___ recently diagnosed with mantel cell lymphoma 
with CNS involvement s/p C1D11 CHOP who is presenting for high 
dose MTX for possible CNS involevement.

The patient was found to have elevated white count in ___ 
and was briefly lost to follow up while trying to establish care 
with a new PCP and was recently seen a few weeks ago when he was 
noted to have white count of 35. Following his incidental 
leukocytosis, he established care with Dr. ___ in ___ 
in ___.  Bone marrow biopsy showed many medium sized 
lymphocytes, no smudge cells, some cells (~10%) with more open 
chromatin and nucleoli.  The cells were found to be CD ___ + 
with CD1 translocation.  The patient was diagnosed with Mantel 
Cell Lymphoma.

Around the same time, the patient noticed a small amount of 
blurry vision in his left eye.  He saw an ophthalmologist and 
was then referred to Dr. ___ at the ___ 
where he was found to have distal branch occlusion of a retinal 
vein with subretinal infiltrates and macular edema.  Given this 
eye presentation, there is concern that the lymphoma is now 
involving the patient's choroid. 

The patient was referred to Dr. ___ on ___ for R-CHOP 
(Cycle 1, Day 1) and received treatment on ___ and ___ without 
incident.  The patient does report improvement in his blurry 
vision following CHOP. The patient tolerated CHOP well, does 
report feeling less "sharp," but denies any confusion.  Also 
reports feeling constipated s/p CHOP.

Currently, the patient reports he feels well and denies 
complaints including pain. Of note, over the last few months, 
the patient denies any weight loss, fatigue or night sweats.  
However, as per report, the patient's wife reports that he has 
been more tired than usual.  Denies any abdominal pain.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- Mantel Cell Lymphoma, recently diagnosed 2 weeks ago, with new 
CNS involvement, s/p R-CHOP (Cycle 1, Day 1 on ___, Day 2 on 
___

PAST MEDICAL HISTORY:  
- Hypertension
- Prostate hypertrophy
- Chronic lymphocytic leukemia  
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- s/p Appendectomy
- s/p Prostate biopsy (incisional)
- s/p Repair of deviated nasal septum

 
Social History:
___
Family History:
CABG, hyperlipidemia, mental retardation.

 
Physical Exam:
Admission PE:
Vitals:  98.7   128/74   79   16   97%RA  Wt 201.8 lbs, 67"
General: pleasant, well appearing gentleman, looks younger than 
stated age, joking  
HEENT: EOMI, moist mucous membranes
CARDIAC: RRR, S1/S2, no murmurs/rubs/gallops appreciated 
LUNG: CTAB, no wheezes/rhonchi/crackles noted  
ABDOMEN: soft, nontender, nondistended, +BS
EXT: warm, well perfused, no ___ edema, 2+ DP pulses
Neuro: normal gait, muscle strength grossly intact 

Discharge PE:
VS: Tm 98.5 97.9  124/72 (118-148/66-92) 74 (71-81) 20 97RA
8h: UOP 1225 / 120PO + 465 IV 
24h: UOP 3080 / 1220PO + 1082
General: Pleasant, well appearing gentleman, looks younger than 
stated age, laying comfortably in bed
HEENT: EOMI, PERRL, moist mucous membranes, L eye outer sclera 
bloody and red
CARDIAC: RRR, S1/S2, no murmurs/rubs/gallops
LUNG: CTAB, no wheezes/rhonchi/crackles
ABDOMEN: Soft, nontender, nondistended, +BS
EXT: Warm, well perfused, no ___ edema
Neuro: Grossly normal

 
Pertinent Results:
Admission labs:

___ 05:20PM BLOOD WBC-13.4*# RBC-3.51* Hgb-10.7* Hct-31.1* 
MCV-89 MCH-30.6 MCHC-34.5 RDW-14.7 Plt ___
___ 05:20PM BLOOD Neuts-10* Bands-0 Lymphs-88* Monos-0 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0
___ 05:20PM BLOOD Glucose-82 UreaN-20 Creat-1.2 Na-137 
K-4.5 Cl-103 HCO3-27 AnGap-12
___ 05:20PM BLOOD ALT-19 AST-25 LD(___)-139 AlkPhos-57 
TotBili-0.2
___ 05:20PM BLOOD Calcium-9.0 Phos-3.4 Mg-2.2 UricAcd-4.6\

Discharge labs:
___ 07:50AM BLOOD WBC-9.5 RBC-3.25* Hgb-9.6* Hct-28.4* 
MCV-87 MCH-29.6 MCHC-33.9 RDW-15.0 Plt ___
___ 07:50AM BLOOD Neuts-9.2* Lymphs-88.9* Monos-0.8* 
Eos-0.3 Baso-0.8
___ 07:50AM BLOOD Glucose-99 UreaN-23* Creat-1.9* Na-138 
K-3.5 Cl-101 HCO3-32 AnGap-9
___ 07:50AM BLOOD ALT-51* AST-42* LD(___)-215 AlkPhos-48 
TotBili-0.6
___ 07:50AM BLOOD Albumin-3.7 Calcium-8.4 Phos-2.5* Mg-2.3

MRI head:
IMPRESSION: 
1.  Focal right occipital lobar sulcal FLAIR-hyperintensity 
concerning for subarachnoid hemorrhage.  Note that though the 
FLAIR sequence was obtained post-contrast administration and 
that, therefore, the sulcal hyperintensity could represent 
leptomeningeal enhancement, this is less likely, given the lack 
of convincing enhancement on post contrast T1-weighted SE and 
MP-RAGE sequences. In the absence of history of trauma, the 
possible etiologies include, but are not limited to, 
leptomeningeal amyloidosis and reversible cerebral 
vasoconstriction syndrome (RCVS, or ___ syndrome). 
2.  Chronic left caudate head infarction with ex vacuo 
dilatation of the left lateral ventricle. 

repeat MRI head:
IMPRESSION: 
1.  Previous FLAIR-signal abnormality is redemonstrated.  It is 
seen only on the post-contrast FLAIR images and is consistent 
with leptomeningeal 
enhancement, concerning for focal lymphomatous spread. This 
finding should be closely correlated with clinical and 
laboratory data, including results of most recent CSF cytology 
and flow-cytometry. 
2.  Sequelae of chronic small vessel ischemic disease. 
3.  Chronic left caudate head infarct with ex vacuo dilatation 
of the frontal horn of left lateral ventricle, re-demonstrated. 

CT head:
IMPRESSION: 
1.  Focal right occipital polar subarachnoid hemorrhage is seen 
better on the concurrent enhanced MR study. 
2.  Old infarct of the left caudate head, with cystic 
encephalomalacia and volume loss. 

 
Brief Hospital Course:
Mr. ___ is ___ with newly diagnosed mantle cell lymphoma s/p  
C1 CHOP who is presenting for HD MTX treatment in the setting of 
possible CNS involvement of lymphoma. 

# Mantle Cell Lymphoma:  The patient has newly diagnosed mantel 
cell lymphoma and is s/p C1 R-CHOP.  He has had recent retinal 
vein occlusion and is currently being worked up by optho at 
___.  Based on exams at ___, there is e/o subretinal 
deposits that are concerning for CNS involvement of the 
patient's lymphoma.  The patient had MRI and CT scan of the 
brain which initially did not show clear e/o lymphoma 
involvement, and instead showed evidence of subarachnoid 
hemorrhage (see below).  However, on repeat imaging prior to 
discharge, MRI showed e/o hyperenhancement c/w leptomenigeal 
involvement.  Both Optho and Neuro-onc evaluated the patient 
while in hospital.  After discussing the option, it was decided 
to do a lumbar puncture, and start high dose methotrexate for 
CNS involvement of lymphoma.

The patient's urine output and urine pH was monitored closely, 
and once methotrexate level was cleared and creat normalized 
(see below), he was dicharged home.

# MTX induced acute kidney injury: The patient had acute creat 
bump in the setting of high dose methotrexate despite having 
adequate urine output and urine pH between 7.5-8.  The patient's 
creat was trended and nephrotoxic agents were avoided and 
medications were renally dosed.  Renal was consulted; the 
patient's urine was also spun, and there was evidence of some 
crystals, as well as muddy brown casts.  It was thought that the 
patient could be having ATN in the setting of MTX therapy.  His 
creat was trending down upon discharge, and renal thought that 
it would continue to improve.  The patient should have his creat 
checked at his follow up visit on ___. 

# retinal vein occlusion: The patient had recent retinal vein 
occlusion.  Optho was consulted and the patient had Avastin 
injection on ___ in ___ clinic.  The patient will have 
outpatient follow up with Optho.  

# subarachnoid hemorrhage: The patient was found to have focal 
area of subarachnoid hemorrhage on MRI and head CT.  Unclear if 
this could be related to CNS involvement of his disease, though 
MRI was negative for any hyperenhancement which would suggest 
lymphoma.  He was monitored clinically.  The patient had repeat 
imaging as per Neuro-onc, specifically MRI with precontrast and 
postcontrast FLAIR series.  On repeat imaging, the patient was 
found to have hyperenhancement that was c/w leptomeningeal 
involvement.  

# Hypertension:  The patient is not on any medications at home, 
and his pressures were monitored while in house.  

Transitional Issues:
- The patient will have to have his creat checked as an 
outpatient. 
 
Medications on Admission:
allopurinol ___ mg daily
 
Discharge Medications:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis:
mantle cell lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___.  You were admitted to the hospital for an MRI and 
chemotherapy.  You were seen by our eye doctors ___ 
___, and after a discussion, it was decided that 
you should get a lumbar puncture and initiate chemotherapy to 
help treat possibly lymphoma spread into your brain.

The eye doctors also ___ into your eye prior to 
your discharge. 

We did not make any changes to your medications.

You have follow up scheduled with Dr. ___ eye doctor, as 
listed below.  You will also need to follow up with Dr. ___ on 
___.  Please check your renal function at this 
visit.  
 
Followup Instructions:
___